US04490527
N-[3-[3-[(1-piperidinyl)methyl]phenoxy]propyl]-6-bromo-1,2-benzisothiazol-3-amine 1,1-dioxide, hydrochloride
A mixture of 4.00 g (15 mmol) 6-bromo-1,2-benzisothiazol-3(2H)-one 1,1-dioxide and 3.57 g (17 mmol) phosphorus pentachloride in 5 ml o-dichlorobenzene is heated from ambient temperature to 160° C. over one hour and is held at that temperature for one additional hour. Upon cooling, liquids are removed in vacuo and the residual 6-bromo-3-chlorobenzisothiazole 1,1-dioxide is suspended in acetonitrile and added portionwise to a solution of 3.7 g (15 mmol) 3-[3-[(1-piperidinyl)methyl]phenoxy]propylamine in refluxing acetonitrile. Heating at reflux is continued for one hour after completion of the addition, after which the reaction mixture is cooled to room temperature. The solution is decanted away from a small quantity of gum and the solvent is removed on a rotoevaporator. The resulting oil is dissolved in absolute ethanol, from which the title compound precipitates. m.p. 217°-220° C. IR (KBr) 1625, 1290, 1165, 1150 cm-1

reactant | 6-bromo-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 15 mmol, 4.00 g | BrC1=CC2=C(C(NS2(=O)=O)=O)C=C1 | C7H4BrNO3S
reactant | phosphorus pentachloride | 17 mmol, 3.57 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-[3-[(1-piperidinyl)methyl]phenoxy]propylamine | 15 mmol, 3.7 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-[3-[3-[(1-piperidinyl)methyl]phenoxy]propyl]-6-bromo-1,2-benzisothiazol-3-amine 1,1-dioxide, hydrochloride | Cl.N1(CCCCC1)CC=1C=C(OCCCNC2=NS(C3=C2C=CC(=C3)Br)(=O)=O)C=CC1 | InChI=1S/C22H26BrN3O3S.ClH/c23-18-8-9-20-21(15-18)30(27,28)25-22(20)24-10-5-13-29-19-7-4-6-17(14-19)16-26-11-2-1-3-12-26;/h4,6-9,14-15H,1-3,5,10-13,16H2,(H,24,25);1H
